US07901594B2
5,14-Bis(p-bromophenyl)-7,12-dipropyl-1,2,3,4-tetrahydropentacene
1,8-Bis(p-bromophenyl)-1,7-octadiyne (0.191 g, 0.459 mmol) was added at −78° C. to a THF solution of bis(η5-cyclopentadienyl)dibutylzirconium in THF, which was prepared from bis(η5-cyclopentadienyl)dichlorozirconium (0.161 g, 0.551 mmol) and n-butyl lithium (0.7 ml, 1.6 M, 1.1 mol/l). The mixture was then allowed to stand at room temperature for an hour. CuCl (0.095 g, 0.964 mmol), DMPU (0.17 ml, 1.38 mmol) and 2,3-diiodo-9,10-dipropylanthracene (0.236 g, 0.459 mmol) were added to the mixture. After heating at 50° C. for an hour, the solvent in the mixture was removed in vacuum. Column chromatography (chloroform) was performed. By recrystallization in chloroform/methanol, the title compound (0.177 g) was obtained as orange red. The isolation yield was 57%.

reactant | 1,8-Bis(p-bromophenyl)-1,7-octadiyne | 0.459 mmol, 0.191 g | BrC1=CC=C(C=C1)C#CCCCCC#CC1=CC=C(C=C1)Br | C20H16Br2
reactant | n-butyl lithium | 1.6 M, 0.7 ml | C(CCC)[Li]
reactant | DMPU | 1.38 mmol, 0.17 ml | CN1CCCN(C1=O)C | C6H12N2O
reactant | 2,3-diiodo-9,10-dipropylanthracene | 0.459 mmol, 0.236 g | IC1=CC2=C(C3=CC=CC=C3C(=C2C=C1I)CCC)CCC | C20H20I2
solvent | THF | C1CCOC1 | C4H8O
catalyst | CuCl | 0.964 mmol, 0.095 g | Cl[Cu]
product | 5,14-Bis(p-bromophenyl)-7,12-dipropyl-1,2,3,4-tetrahydropentacene | 0.177 g, yield was 57% | BrC1=CC=C(C=C1)C1=C2CCCCC2=C(C2=CC3=C(C4=CC=CC=C4C(=C3C=C12)CCC)CCC)C1=CC=C(C=C1)Br | C40H36Br2
